US06699879B1
8-Bromo-2-methylquinoline-4-carboxylic Acid (D18)
A suspension of 7-bromoisatin (6.0 g) in acetone (27 ml) was treated with sodium hydroxide (4.6 g) in water (23 ml). The mixture was heated to reflux for 8 h, cooled and solvent reduced in volume at reduced pressure to approx. 25 ml. The residual aqueous phase was acidified with conc. HCl, extracted with ethyl acetate, the organic phase dried (MgSO4) and solvent removed at reduced pressure to give the title compound (7.2 g) as a yellow solid. 1H NMR δ: 2.85 (3H, s), 7.40 (1H, m), 7.90 (1H, s), 8.05 (1H, dd, J=1.2, 7.6 Hz), 8.79 (1H, dd, J=1.0, 8.5 Hz).

reactant | 7-bromoisatin | 6.0 g | BrC=1C=CC=C2C(C(NC12)=O)=O | C8H4BrNO2
reactant | sodium hydroxide | 4.6 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | acetone | 27 ml | CC(=O)C | C3H6O
solvent | water | 23 ml | O | H2O
product | 8-Bromo-2-methylquinoline-4-carboxylic Acid | 7.2 g | BrC=1C=CC=C2C(=CC(=NC12)C)C(=O)O | C11H8BrNO2
